US07745641B2
3-Amino-6-bromophthalimide (100 mg, 0.415 mmol) was dissolved in acetonitrile (7 mL), and the solution was added with 1-(tert-butoxycarbonyl)indole-2-boronic acid (217 mg, 0.830 mmol), palladium acetate (7.5 mg, 0.033 mmol), tri(o-tolyl)phosphine (20 mg, 0.066 mmol) and triethylamine (0.578 mL, 4.15 mmol), followed by stirring under reflux for 7.5 hours under argon atmosphere. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol=20/1, chloroform/acetonitrile=15/1) to obtain 3-amino-6-[1-(tert-butoxycarbonyl)indol-2-yl]phthalimide (106 mg, yield 67%).

reactant | 3-Amino-6-bromophthalimide | 0.415 mmol, 100 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1)Br | C8H5BrN2O2
reactant | 1-(tert-butoxycarbonyl)indole-2-boronic acid | 0.830 mmol, 217 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | tri(o-tolyl)phosphine | 0.066 mmol, 20 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 4.15 mmol, 0.578 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.033 mmol, 7.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 3-amino-6-[1-(tert-butoxycarbonyl)indol-2-yl]phthalimide | 106 mg, yield 67% | NC1=C2C(C(=O)NC2=O)=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C21H19N3O4
